US08877772B2
Preparation of 4-{4-[3-(4-carbamoyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoyl}-piperazine-1-carboxylic acid tert-butyl ester
4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide (Intermediate CA, 200 mg, 0.425 mmol), 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester (212 mmg, 0.51 mmol) and dichlorobis(triphenylphosphine)palladium (II) (15 mg, 0.021 mmol) were combined in CH3CN (5 ml) and 1 M Na2CO3 (5 ml) and reacted in a microwave reactor at 150° C. for 10 min. The mixture was filtered, water was added, extracted with EtOAc and purified by silica gel chromatography using 0-8% MeOH:DCM. The title compound was obtained in 46% yield (102 mg). 1H NMR (DMSO-d6, 300 MHz): δ 12.2 (bs, 1H), 8.63 (d, J=1.1 Hz, 1H), 8.54 (d, J=1.1 Hz, 1H), 8.08 (s, 1H), 7.98 (bs, 1H), 7.96 (d, J=5.1 Hz, 2H), 7.89 (m, 4H), 7.54 (d, J=4.9 Hz, 2H), 7.32 (bs, 1H), 3.6 (bs, 2H), 3.4 (bs), 1.41 (s, 9H).

reactant | 4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide | 0.425 mmol, 200 mg | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(C(=O)N)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C21H16BrN3O3S
reactant | 4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.51 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C22H33BN2O5
reactant | Na2CO3 | 1 M, 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 5 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.021 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-{4-[3-(4-carbamoyl-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoyl}-piperazine-1-carboxylic acid tert-butyl ester | 46% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=CC=C(C=C2)C(N)=O)=O | C30H31N5O4
